Truncated Datasets/Truncated Pathways Dataset (first 1000 rows).csv
original_reactions,updated_reaction,mechanistic_class,mechanistic_label,data_source
O[C:1]([c:2]1[cH:3][cH:4][c:5]([B:6]2[O:7][C:8]([CH3:9])([CH3:10])[C:11]([CH3:12])([CH3:13])[O:14]2)[cH:15][cH:16]1)=[O:17].[CH2:18]1[CH2:19][NH:20][C@@H:21]([CH2:22][N:23]2[CH2:24][CH2:25][CH2:26][CH2:27]2)[CH2:28]1>>[C:1]([c:2]1[cH:3][cH:4][c:5]([B:6]2[O:7][C:8]([CH3:9])([CH3:10])[C:11]([CH3:12])([CH3:13])[O:14]2)[cH:15][cH:16]1)(=[O:17])[N:20]1[CH2:19][CH2:18][CH2:28][C@@H:21]1[CH2:22][N:23]1[CH2:24][CH2:25][CH2:26][CH2:27]1,[OH:101][C:1]([c:2]1[cH:3][cH:4][c:5]([B:6]2[O:7][C:8]([CH3:9])([CH3:10])[C:11]([CH3:12])([CH3:13])[O:14]2)[cH:15][cH:16]1)=[O:17].[CH2:18]1[CH2:19][NH:20][C@@H:21]([CH2:22][N:23]2[CH2:24][CH2:25][CH2:26][CH2:27]2)[CH2:28]1.[N:301](=[C:302]=[N:303]C1CCCCC1)C2CCCCC2>>[C:1]([c:2]1[cH:3][cH:4][c:5]([B:6]2[O:7][C:8]([CH3:9])([CH3:10])[C:11]([CH3:12])([CH3:13])[O:14]2)[cH:15][cH:16]1)(=[O:17])[N:20]1[CH2:19][CH2:18][CH2:28][C@@H:21]1[CH2:22][N:23]1[CH2:24][CH2:25][CH2:26][CH2:27]1,DCC_condensation,"[(301, 101.1), ([101.1, 101], 101), (101, 302), ([302, 301], 301), (20, 1), ([1, 17], 17), (303, 20.1), ([20.1, 20], 20), (17, [17, 1]), ([1, 101], 101), (101, [101, 302]), ([302, 303], 303)]",https://figshare.com/articles/dataset/Chemical_reactions_from_US_patents_1976-Sep2016_/5104873
CC(=O)O[C:2]([CH3:1])=[O:3].[CH3:4][c:5]1[n:6][c:7]2[c:8]([cH:9][c:10]1-[c:11]1[cH:12][cH:13][c:14]([NH2:15])[cH:16][cH:17]1)[nH:18][c:19](=[O:20])[nH:21]2>>[CH3:1][C:2](=[O:3])[NH:15][c:14]1[cH:13][cH:12][c:11](-[c:10]2[c:5]([CH3:4])[n:6][c:7]3[c:8]([cH:9]2)[nH:18][c:19](=[O:20])[nH:21]3)[cH:17][cH:16]1,[CH3:4][c:5]1[n:6][c:7]2[c:8]([cH:9][c:10]1-[c:11]1[cH:12][cH:13][c:14]([NH2:15])[cH:16][cH:17]1)[nH:18][c:19](=[O:20])[nH:21]2.CC(=O)[O:101][C:2]([CH3:1])=[O:3]>>[CH3:1][C:2](=[O:3])[NH:15][c:14]1[cH:13][cH:12][c:11](-[c:10]2[c:5]([CH3:4])[n:6][c:7]3[c:8]([cH:9]2)[nH:18][c:19](=[O:20])[nH:21]3)[cH:17][cH:16]1,nucleophilic_attack_to_(thio)carbonyl_or_sulfonyl,"[(15, 2), ([2, 3], 3), (3, [3, 2]), ([2, 101], 101)]",https://figshare.com/articles/dataset/Chemical_reactions_from_US_patents_1976-Sep2016_/5104873
Cl[C:1]([c:2]1[cH:3][cH:4][cH:5][c:6]([O:7][CH3:8])[cH:9]1)=[O:10].[N:11]#[C:12][c:13]1[cH:14][cH:15][cH:16][cH:17][c:18]1[N:19]1[CH2:20][CH2:21][N:22]([C:23](=[O:24])[CH:25]2[CH2:26][CH:27]([NH2:28])[CH2:29][N:30]2[CH2:31][c:32]2[cH:37][cH:36][cH:35][cH:34][cH:33]2)[CH2:38][CH2:39]1>>[C:1]([c:2]1[cH:3][cH:4][cH:5][c:6]([O:7][CH3:8])[cH:9]1)(=[O:10])[NH:28][C@H:27]1[CH2:26][C@@H:25]([C:23]([N:22]2[CH2:21][CH2:20][N:19]([c:18]3[c:13]([C:12]#[N:11])[cH:14][cH:15][cH:16][cH:17]3)[CH2:39][CH2:38]2)=[O:24])[N:30]([CH2:31][c:32]2[cH:33][cH:34][cH:35][cH:36][cH:37]2)[CH2:29]1,[N:11]#[C:12][c:13]1[cH:14][cH:15][cH:16][cH:17][c:18]1[N:19]1[CH2:20][CH2:21][N:22]([C:23](=[O:24])[CH:25]2[CH2:26][CH:27]([NH2:28])[CH2:29][N:30]2[CH2:31][c:32]2[cH:33][cH:34][cH:35][cH:36][cH:37]2)[CH2:38][CH2:39]1.[Cl:101][C:1]([c:2]1[cH:3][cH:4][cH:5][c:6]([O:7][CH3:8])[cH:9]1)=[O:10]>>[C:1]([c:2]1[cH:3][cH:4][cH:5][c:6]([O:7][CH3:8])[cH:9]1)(=[O:10])[NH:28][C@H:27]1[CH2:26][C@@H:25]([C:23]([N:22]2[CH2:21][CH2:20][N:19]([c:18]3[c:13]([C:12]#[N:11])[cH:14][cH:15][cH:16][cH:17]3)[CH2:39][CH2:38]2)=[O:24])[N:30]([CH2:31][c:32]2[cH:33][cH:34][cH:35][cH:36][cH:37]2)[CH2:29]1,nucleophilic_attack_to_(thio)carbonyl_or_sulfonyl,"[(28, 1), ([1, 10], 10), (10, [10, 1]), ([1, 101], 101)]",https://figshare.com/articles/dataset/Chemical_reactions_from_US_patents_1976-Sep2016_/5104873
Cl[CH2:1][c:2]1[c:3](-[c:4]2[c:5]([CH3:6])[cH:7][cH:8][cH:9][cH:10]2)[n:11][c:12]2[c:13]([CH3:14])[cH:15][cH:16][cH:17][c:18]2[cH:19]1.[NH2:20][c:21]1[n:22][cH:23][n:24][c:25]2[nH:26][n:27][c:28]([I:29])[c:30]12>>[CH2:1]([c:2]1[c:3](-[c:4]2[c:5]([CH3:6])[cH:7][cH:8][cH:9][cH:10]2)[n:11][c:12]2[c:13]([CH3:14])[cH:15][cH:16][cH:17][c:18]2[cH:19]1)[n:26]1[c:25]2[n:24][cH:23][n:22][c:21]([NH2:20])[c:30]2[c:28]([I:29])[n:27]1,[Cl:101][CH2:1][c:2]1[c:3](-[c:4]2[c:5]([CH3:6])[cH:7][cH:8][cH:9][cH:10]2)[n:11][c:12]2[c:13]([CH3:14])[cH:15][cH:16][cH:17][c:18]2[cH:19]1.[NH2:20][c:21]1[n:22][cH:23][n:24][c:25]2[nH:26][n:27][c:28]([I:29])[c:30]12>>[CH2:1]([c:2]1[c:3](-[c:4]2[c:5]([CH3:6])[cH:7][cH:8][cH:9][cH:10]2)[n:11][c:12]2[c:13]([CH3:14])[cH:15][cH:16][cH:17][c:18]2[cH:19]1)[n:26]1[c:25]2[n:24][cH:23][n:22][c:21]([NH2:20])[c:30]2[c:28]([I:29])[n:27]1,SN2,"[(26, 1), ([1, 101], 101)]",https://figshare.com/articles/dataset/Chemical_reactions_from_US_patents_1976-Sep2016_/5104873
